US07425634B2
(8a) Ethyl(2-propyl-1,3-dioxan-2-yl)acetate
A mixture of ethyl 3-oxohexanoate (5 g, 31.6 mmol), 1,3-propanediol (3.61 g, 47.4 mmol), trimethyl orthoformate (5.78 ml, 34.8 mmol), and p-toluenesulfonic acid monohydrate (272 mg, 1.58 mmol) was stirred at room temperature for 22 hours. After completion of the reaction, triethylamine (881 μl, 6.32 mmol) was added to the reaction mixture which was then concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate) to obtain the title compound (5.5 g, yield: 80.5%) as a light yellow oil.

reactant | ethyl 3-oxohexanoate | 31.6 mmol, 5 g | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | 1,3-propanediol | 47.4 mmol, 3.61 g | C(CCO)O | C3H8O2
reactant | trimethyl orthoformate | 34.8 mmol, 5.78 ml | C(OC)(OC)OC | C4H10O3
reactant | triethylamine | 6.32 mmol, 881 μl | C(C)N(CC)CC | C6H15N
catalyst | p-toluenesulfonic acid monohydrate | 1.58 mmol, 272 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl(2-propyl-1,3-dioxan-2-yl)acetate | 5.5 g, yield: 80.5% | C(C)OC(CC1(OCCCO1)CCC)=O | C11H20O4
